US09029361B2
Part D. Preparation of tert-butyl (8R,9aR)-8-hydroxy-5-oxohexahydro-1H-pyrrolo[1,2-a][1,4]diazepine-2(3H)-carboxylate
To a solution of (8R,9aR)-2-benzyl-8-(benzyloxy)octahydro-5H-pyrrolo[1,2-a][1,4]diazepin-5-one (6 g, 0.017 mol, Part C) in ethanol (60 mL) was added 20% Pd(OH)2/C (3.5 g) and di-tert-butyl dicarbonate (7.5 g, 0.034 mol) in an autoclave. The reaction mixture was hydrogenated (30 psi) at 50° C. for four hours and then filtered through a bed of diatomaceous earth. The filter bed was washed with ethanol (30 mL), and the combined filtrates were concentrated. The residue was dissolved in water (10 ml) and extracted with dichloromethane (25 mL×3). The combined organic layers were dried over anhydrous sodium sulfate and concentrated. The solid obtained was washed with tert-butyl methyl ether (25 mL) to give the titled compound (3 g, 65%) as white solid. HPLC (column: Agilent ZORBAX® RX-C8, 150 mm×4.6 mm, 5 μm; gradient: 40-80% acetonitrile in 0.1% phosphoric acid/water over 13 minutes with a hold at 80% for an additional five minutes; flow rate: 1.5 mL/minute; temperature: 30° C.). Retention time for the titled isomer was 1.389 minutes. Chiral HPLC (column: Chiral Technologies Chiralpak® IC™, 250 mm×4.6 mm, 5 μm; eluent: 15% (1:1) methanol/ethanol in 0.1% triethylamine/heptane; flow rate: 1.0 mL/minute; temperature: 30° C.). Retention time for the titled isomer was 17.355 minutes. 1H NMR (300 MHz, CDCl3) δ ppm 4.36-4.46 (m, 1 H) 4.04-4.26 (m, 2 H) 3.81-3.94 (m, 1 H) 3.56-3.71 (m, 2 H) 3.09 (dd, J=14.1, 10.0 Hz, 1 H) 2.52-2.70 (m, 2 H) 2.35-2.48 (m, 1 H) 1.77-1.89 (m, J=9.8, 3.7 Hz, 1 H) 1.47 (s, 9 H); MS (ESI+) m/z 541.6 (2M+H)+.

reactant | (8R,9aR)-2-benzyl-8-(benzyloxy)octahydro-5H-pyrrolo[1,2-a][1,4]diazepin-5-one | 0.017 mol, 6 g | C(C1=CC=CC=C1)N1C[C@@H]2N(C(CC1)=O)C[C@@H](C2)OCC2=CC=CC=C2 | C22H26N2O2
reactant | di-tert-butyl dicarbonate | 0.034 mol, 7.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 60 mL | C(C)O | C2H6O
catalyst | Pd(OH)2/C | 3.5 g | [OH-].[OH-].[Pd+2]
product | tert-butyl (8R,9aR)-8-hydroxy-5-oxohexahydro-1H-pyrrolo[1,2-a][1,4]diazepine-2(3H)-carboxylate | 3 g, 65% | O[C@@H]1C[C@H]2N(C(CCN(C2)C(=O)OC(C)(C)C)=O)C1 | C13H22N2O4
